US07888362B2
By a similar method as in Example 1, 1-[5-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)pentyl]-1H-quinolin-2-one was prepared from 1-(5-chloropentyl)-1H-quinolin-2-one, and after it was made into an ethanol solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, and thereby 1-[5-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)pentyl]-1H-quinolin-2-one hydrochloride was obtained in the form of a white powder.

reactant | 1-[5-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)pentyl]-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCCN2C(C=CC1=CC=CC=C21)=O | C26H29N3OS
reactant | 1-(5-chloropentyl)-1H-quinolin-2-one | ClCCCCCN1C(C=CC2=CC=CC=C12)=O | C14H16ClNO
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethanol | C(C)O | C2H6O
product | 1-[5-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)pentyl]-1H-quinolin-2-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCCN2C(C=CC1=CC=CC=C21)=O | InChI=1S/C26H29N3OS.ClH/c30-26-12-11-21-7-2-3-8-23(21)29(26)15-5-1-4-14-27-16-18-28(19-17-27)24-9-6-10-25-22(24)13-20-31-25;/h2-3,6-13,20H,1,4-5,14-19H2;1H
